US08084620B2
Step 2 A solution of 4-bromo-7-(1-hydroxycyclopropyl)-9H-carbazole-1-carboxamide (0.151 g, 0.436 mmol), tert-butylchlorodimethylsilane (0.079 g, 0.524 mmol) and imidazole (0.074 g, 1.091 mmol) in DMF (2.2 mL) was stirred at rt for 18 h. Additional tert-butylchlorodimethylsilane (0.079 g, 0.524 mmol) and imidazole (0.074 g, 1.091 mmol) were added and stirring was continued for 1 h. The mixture was diluted with EtOAc (75 mL) and washed seven times with brine. The organic layer was dried and concentrated and the residue was purified by column chromatography (eluting with a gradient from 90:10 to 50:50 hexane-EtOAc) to give 4-bromo-7-(1-(tert-butyldimethylsilyloxy)cyclopropyl)-9H-carbazole-1-carboxamide (0.144 g, 67%).

reactant | 4-bromo-7-(1-hydroxycyclopropyl)-9H-carbazole-1-carboxamide | 0.436 mmol, 0.151 g | BrC1=CC=C(C=2NC3=CC(=CC=C3C12)C1(CC1)O)C(=O)N | C16H13BrN2O2
reactant | tert-butylchlorodimethylsilane | 0.524 mmol, 0.079 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 1.091 mmol, 0.074 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 0.524 mmol, 0.079 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 1.091 mmol, 0.074 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 4-bromo-7-(1-(tert-butyldimethylsilyloxy)cyclopropyl)-9H-carbazole-1-carboxamide | 0.144 g, 67% | BrC1=CC=C(C=2NC3=CC(=CC=C3C12)C1(CC1)O[Si](C)(C)C(C)(C)C)C(=O)N | C22H27BrN2O2Si
